US05891871
Methyl 2-(3,4-Methylenedioxyphenyl)propionate
To a solution of LDA in THF (60 mL) was added methyl 3,4-methylenedioxyphenylacetate (2 g, 10.3 mmol) at -78° C. and the solution was warmed to -15° C. for 45 min. MeI (4.39 g, 30.9 mmol) was added and the reaction was warmed to room temperature for 16 h. The reaction mixture was then poured to a separatory funnel containing NH4Cl (80 mL) and the product was extracted with EtOAc (2×150 mL) and dried over Na2SO4. The crude product obtained by removal of the solvent was purified by flash chromatography to give the product as a colorless solid (1.36 g , 63%). 1H NMR (CDCl3) 6.75 (m, 3H), 5.95 (s 2H), 3.67 (s, 3H), 3.66 (m, 1H), 1.46 (d, J=7.4, 3H).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | methyl 3,4-methylenedioxyphenylacetate | 10.3 mmol, 2 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | MeI | 30.9 mmol, 4.39 g | CI | CH3I
reactant | NH4Cl | 80 mL | [NH4+].[Cl-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Methyl 2-(3,4-Methylenedioxyphenyl)propionate | 1.36 g, 63% | C1OC=2C=C(C=CC2O1)C(C(=O)OC)C | C11H12O4
